US05981521
1,2,3,4-Tetrahydro-1-isopropyl-6,7-dimethoxyisoquinoline was prepared by a procedure analogous to that described in example 4 for 1.2,3,4-tetrahydro-1-cyclopropyl-6,7-dimethoxy- isoquinoline but substituting in the first step isobutyryl chloride for cyclopropylcarbonyl chloride.

reactant | 1.2,3,4-tetrahydro-1-cyclopropyl-6,7-dimethoxy- isoquinoline | C1(CC1)C1NCCC2=CC(=C(C=C12)OC)OC | C14H19NO2
reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
reactant | cyclopropylcarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | 1,2,3,4-Tetrahydro-1-isopropyl-6,7-dimethoxyisoquinoline | C(C)(C)C1NCCC2=CC(=C(C=C12)OC)OC | C14H21NO2
